US05141930
To a suspension of 6.0 g of 2-acetyl-5,6,7,8-tetrahydro-5-[4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl]-4H-thieno[3,2-c]azepin-4-one maleate in 100 ml of ethanol were added 0.92 g of hydroxyamine hydrochloride and 4.0 g of sodium hydrogencarbonate with stirring and the mixture was refluxed for 5 hours. After cooling, the mixture was concentrated under reduced pressure, to the residue was added water and the solution was extracted with chloroform. The extract was washed with water, dried and concentrated in vacuo. The resulting crystals were recrystallized from a mixed solvent of ethanol and isopropyl ether to give 4.95 g of 5,6,7,8-tetrahydro-2-(1-(hydroxyimino)ethyl)-5-[4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl]-4H-thieno[3,2-c]azepin-4-one as white crystals, melting at 144°-146° C.

reactant | 2-acetyl-5,6,7,8-tetrahydro-5-[4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl]-4H-thieno[3,2-c]azepin-4-one maleate | 6.0 g | C(\C=C/C(=O)O)(=O)O.C(C)(=O)C1=CC=2C(N(CCCC2S1)CCCCN1CCN(CC1)C1=NC=CC=N1)=O
reactant | hydroxyamine hydrochloride | 0.92 g | Cl.ON
reactant | sodium hydrogencarbonate | 4.0 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5,6,7,8-tetrahydro-2-(1-(hydroxyimino)ethyl)-5-[4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl]-4H-thieno[3,2-c]azepin-4-one | 4.95 g | ON=C(C)C1=CC=2C(N(CCCC2S1)CCCCN1CCN(CC1)C1=NC=CC=N1)=O | C22H30N6O2S
